US03931232
3-(1-Ethyl-2-methylheptyl)-5,6,7,8-tetrahydro-1-hydroxy-6,9-dimethylxanthene
Condensation of 5-(1-ethyl-2-methylheptyl)resorcinol and 2-acetyl-5-methylcyclohexanone as described in Example 1 gives the title compound.

reactant | 5-(1-ethyl-2-methylheptyl)resorcinol | C(C)C(C(CCCCC)C)C=1C=C(C=C(O)C1)O | C16H26O2
reactant | 2-acetyl-5-methylcyclohexanone | C(C)(=O)C1C(CC(CC1)C)=O | C9H14O2
product | 3-(1-Ethyl-2-methylheptyl)-5,6,7,8-tetrahydro-1-hydroxy-6,9-dimethylxanthene | C(C)C(C(CCCCC)C)C=1C=C(C=2C(C=3CCC(CC3OC2C1)C)C)O | C25H38O2
